US07101883B2
Sodium hydroxide 3.0 M (8.7 ml) was added to a suspension of 4-hydroxybezenesulfonic acid sodium salt (5.0 g, 22.0 mmol), 4-chloromethyl-2-methylquinoline (5.0 g, 26.0 mmol) and sodium iodide (0.4 g, 2.7 mmol) in ethanol (80 ml). The reaction was heated to reflux for 18 h, allowed to cool to room temperature to crystallize a white solid. The solids were filtered off, washed with ethanol, chloroform and dried in vacuo to give 4-[(2-methyl-4-quinolinyl)methoxy]benzenesulfonic acid sodium salt (5.5 g, 73%) as a crystalline solid. MS found: (M−Na)−=328.

reactant | Sodium hydroxide | 3.0 M, 8.7 ml | [OH-].[Na+]
reactant | 4-hydroxybezenesulfonic acid sodium salt | 22.0 mmol, 5.0 g | [Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | 4-chloromethyl-2-methylquinoline | 26.0 mmol, 5.0 g | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | sodium iodide | 2.7 mmol, 0.4 g | [I-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-[(2-methyl-4-quinolinyl)methoxy]benzenesulfonic acid sodium salt | 5.5 g, 73% | [Na+].CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C17H15NO4S.Na/c1-12-10-13(16-4-2-3-5-17(16)18-12)11-22-14-6-8-15(9-7-14)23(19,20)21;/h2-10H,11H2,1H3,(H,19,20,21);/q;+1/p-1
